US05935972
Acetic acid bis(acetoxy)-(7-[1,3]dioxan-2-yl-benzofuran-5-yl)-plumbanyl ester
A stirred solution of tributyl-(7-[1,3]dioxan-2-yl-benzofuran-5-yl)stannane (9.6 g), lead tetraacetate (9.8 g) and mercuric acetate (350 mg) in chloroform (200 ml) was heated at 45° for 20 h. The mixture was cooled and filtered through Hyflo. The filtrate was evaporated to dryness. The residual gum was triturated under hexane (200 ml) for 2 h to give the title compound as an off-white solid (9.4 g), m.p. 92-94°.

reactant | tributyl-(7-[1,3]dioxan-2-yl-benzofuran-5-yl)stannane | 9.6 g | C(CCC)[Sn](C=1C=C(C2=C(C=CO2)C1)C1OCCCO1)(CCCC)CCCC
reactant | lead tetraacetate | 9.8 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | Acetic acid bis(acetoxy)-(7-[1,3]dioxan-2-yl-benzofuran-5-yl)-plumbanyl ester | 9.4 g | C(C)(=O)O[Pb](C=1C=C(C2=C(C=CO2)C1)C1OCCCO1)(OC(C)=O)OC(C)=O | InChI=1S/C12H11O3.3C2H4O2.Pb/c1-3-9-5-8-13-11(9)10(4-1)12-14-6-2-7-15-12;3*1-2(3)4;/h3-5,8,12H,2,6-7H2;3*1H3,(H,3,4);/q;;;;+3/p-3
